US08044076B2
A mixture of 4-[5-(4-isopropoxy-phenyl)-[1,2,4]oxadiazol-3-yl]-2,6-dimethyl-phenol (370 mg, 1.14 mmol) and epichlorohydrine (317 mg, 3.42 mmol) in isopropanol (5 mL) and 3 N aq. NaOH (1.5 mL) is stirred at rt for 16 h. The mixture is diluted with EA, washed with water, dried over MgSO4, filtered and concentrated. The crude product is purified by chromatography on prep. TLC plates with heptane:EA 3:1 to give 3-(3,5-dimethyl-4-oxiranylmethoxy-phenyl)-5-(4-isopropoxy-phenyl)-[1,2,4]oxadiazole (256 mg) as white solid; LC-MS: tR=1.14 min, [M+1]+=381.18.

reactant | 4-[5-(4-isopropoxy-phenyl)-[1,2,4]oxadiazol-3-yl]-2,6-dimethyl-phenol | 1.14 mmol, 370 mg | C(C)(C)OC1=CC=C(C=C1)C1=NC(=NO1)C1=CC(=C(C(=C1)C)O)C | C19H20N2O3
reactant | epichlorohydrine | 3.42 mmol, 317 mg | C(Cl)C1CO1 | C3H5ClO
solvent | isopropanol | 5 mL | C(C)(C)O | C3H8O
solvent | NaOH | 3 N, 1.5 mL | [OH-].[Na+]
solvent | EA | CC(OCC)=O | C4H8O2
product | 3-(3,5-dimethyl-4-oxiranylmethoxy-phenyl)-5-(4-isopropoxy-phenyl)-[1,2,4]oxadiazole | 256 mg | CC=1C=C(C=C(C1OCC1OC1)C)C1=NOC(=N1)C1=CC=C(C=C1)OC(C)C | C22H24N2O4
